US07696223B2
d) 7-Cyano-1-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 6(a) from 2,3-dibromo-7-cyano-4-hydroxy-1-(4-fluoro-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, ammonium formate and Pd/C. The title compound, ESI MS (m/z): 326 (M+H)+.

reactant | 2,3-dibromo-7-cyano-4-hydroxy-1-(4-fluoro-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Br)Br)C2=CC=C(C=C2)F)O | C17H10Br2FN3O3
reactant | ammonium formate | C(=O)[O-].[NH4+]
catalyst | Pd/C | [Pd] | Pd
product | 7-Cyano-1-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)C2=CC=C(C=C2)F)O | C17H12FN3O3
